### PR TITLE
[Merged by Bors] - feat(Polynomial/Roots): add a theorem for computing roots

### PR DESCRIPTION
**Pull request by YuvalFilmus**
The theorem `roots_eq_of_degree` shows that S is the set of roots of a degree d polynomial P if #S = d and P(x) = 0 for every x in S. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 1]
```diff
@@ -286,6 +286,20 @@ theorem card_roots_X_pow_sub_C {n : ℕ} (hn : 0 < n) (a : R) :
...
+  symm; apply Multiset.eq_of_le_of_card_le
+  · apply Finset.val_le_iff_val_subset.mpr
+    intro x hx
+    apply (p.mem_roots hp).mpr
+    apply hS
+    exact hx
+  · change p.roots.card ≤ S.card
+    have := p.card_roots hp
+    rw [←hcard, Nat.cast_le] at this
+    exact this
```
Comment (LLaurance) [inline Mathlib/Algebra/Polynomial/Roots.lean]:
```suggestion
  exact (Multiset.eq_of_le_of_card_le
    (Finset.val_le_iff_val_subset.mpr (fun x hx ↦ (p.mem_roots hp).mpr (hS x hx)))
    ((WithBot.coe_le hcard.symm).mp (p.card_roots hp))).symm
```

Comment (LLaurance) [reply Mathlib/Algebra/Polynomial/Roots.lean]: Not sure this is better even though it is shorter.

Comment (erdOne) [reply Mathlib/Algebra/Polynomial/Roots.lean]: Looks better to me.

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 2]
```diff
@@ -286,6 +286,13 @@ theorem card_roots_X_pow_sub_C {n : ℕ} (hn : 0 < n) (a : R) :
         card_roots (X_pow_sub_C_ne_zero hn a)
       _ = n := degree_X_pow_sub_C hn a
 
+theorem roots_eq_of_degree {S : Finset R}
+    (hS : ∀ x ∈ S, p.eval x = 0) (hcard : S.card = p.degree) : p.roots = S.val := by
```
Comment (jcommelin) [inline Mathlib/Algebra/Polynomial/Roots.lean]: Can you make the assumption slightly weaker: `hcard: p.degree \le S.card`?

Comment (YuvalFilmus) [reply Mathlib/Algebra/Polynomial/Roots.lean]: No, since you also need to assume that `p` is non-zero.
Instead, I added a new theorem which has your assumption and this additional one.

Comment (dagurtomas) [reply Mathlib/Algebra/Polynomial/Roots.lean]: Now that you have the other version, you can more cleanly prove this version using that

Comment (YuvalFilmus) [reply Mathlib/Algebra/Polynomial/Roots.lean]: I'm doing exactly the opposite - I prove the new version using the old one.

Comment (dagurtomas) [reply Mathlib/Algebra/Polynomial/Roots.lean]: This seems slightly cleaner to me:

```lean
theorem roots_eq_of_degree_of_ne_zero {S : Finset R}
    (hS : ∀ x ∈ S, p.eval x = 0) (hcard : p.degree ≤ S.card) (hp : p ≠ 0) : p.roots = S.val := by
  refine (Multiset.eq_of_le_of_card_le ?_ ?_).symm
  · exact (Finset.val_le_iff_val_subset.mpr (fun x hx ↦ (p.mem_roots hp).mpr (hS x hx)))
  · simpa using (p.card_roots hp).trans hcard

theorem roots_eq_of_degree {S : Finset R}
    (hS : ∀ x ∈ S, p.eval x = 0) (hcard : S.card = p.degree) : p.roots = S.val :=
  roots_eq_of_degree_of_ne_zero hS (by cutsat) (by contrapose! hcard; simp [hcard])
```

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 3]
```diff
@@ -286,6 +286,16 @@ theorem card_roots_X_pow_sub_C {n : ℕ} (hn : 0 < n) (a : R) :
         card_roots (X_pow_sub_C_ne_zero hn a)
       _ = n := degree_X_pow_sub_C hn a
 
+theorem roots_eq_of_degree_of_ne_zero {S : Finset R}
+    (hS : ∀ x ∈ S, p.eval x = 0) (hcard : p.degree ≤ S.card) (hp : p ≠ 0) : p.roots = S.val := by
```
Comment (j-loreaux) [inline Mathlib/Algebra/Polynomial/Roots.lean]: I think it would be even nicer to have a `natDegree` version of this, so that the inequality takes place in `ℕ` instead of `WithBot ℕ`, especially since the `p ≠ 0` hypothesis is already necessary anyway.

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 4]
```diff
@@ -286,6 +286,20 @@ theorem card_roots_X_pow_sub_C {n : ℕ} (hn : 0 < n) (a : R) :
...
+  refine (Multiset.eq_of_le_of_card_le ?_ ?_).symm
+  · exact (Finset.val_le_iff_val_subset.mpr (fun x hx ↦ (p.mem_roots hp).mpr (hS x hx)))
+  · simpa using (p.card_roots hp).trans hcard
+
+theorem roots_eq_of_degree {S : Finset R}
+    (hS : ∀ x ∈ S, p.eval x = 0) (hcard : S.card = p.degree) : p.roots = S.val :=
+  roots_eq_of_degree_of_ne_zero hS (by cutsat) (by contrapose! hcard; simp [hcard])
```
Comment (dagurtomas) [inline Mathlib/Algebra/Polynomial/Roots.lean]:
```suggestion
  roots_eq_of_degree_of_ne_zero hS (by lia) (by contrapose! hcard; simp [hcard])
```
apparently the name of this tactic is changing

File: Mathlib/Algebra/Polynomial/Roots.lean [hunk 5]
```diff
@@ -286,6 +286,20 @@ theorem card_roots_X_pow_sub_C {n : ℕ} (hn : 0 < n) (a : R) :
         card_roots (X_pow_sub_C_ne_zero hn a)
       _ = n := degree_X_pow_sub_C hn a
 
+theorem roots_eq_of_degree_of_ne_zero {S : Finset R}
```
Comment (dagurtomas) [inline Mathlib/Algebra/Polynomial/Roots.lean]:
```suggestion
theorem roots_eq_of_degree_le_card_of_ne_zero {S : Finset R}
```
and similar for the other versions

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
